US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 2-ethylhexanoyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-ethylhexanamide as a tan powder, m.p. 163.0-164.0° C. 1H NMR (300 MHz, DMSO-d6) δ8.19 (s, 1H), 8.03 (d, J=8.1 Hz, 1H), 7.79 (m, 1H), 7.61 (dd, J=8.1, 1.2 Hz 1H), 7.44 (dt, J=7.5, 1.2 Hz, 1H), 7.26 (dt, J=7.5, 1.2 Hz, 1H), 6.63 (s, 2H), 4.61 (t, J=6.9 Hz, 2H), 3.12-3.05 (m, 2H), 1.94-1.82 (m, 3H), 1.49-1.03 (m, 10H), 0.76 (t, J=7.2 Hz, 3H), 0.67 (t, J=7.2 Hz, 3H), MS (EI) m/e 381.2533 (381.2529 calcd for C22H31N5O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 2-ethylhexanoyl chloride | C(C)C(C(=O)Cl)CCCC | C8H15ClO
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-ethylhexanamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C(CCCC)CC)=O | C22H31N5O
